US04126687
A mixture of 38 parts of carbon disulfide, 6 parts of 1-[1-{3-[N-(2-aminophenyl)amino]propyl}-4-piperidinyl]-5-chloro-1,3-dihydro-2H-benzimidazol-2-one and 32 parts of ethanol is stirred and refluxed for 24 hours. The reaction mixture is evaporated and the residue is crystallized from ethanol. The product is filtered off and recrystallized from a mixture of N,N-dimethylformamide and water, yielding 3 parts (45.5%) of 5-chloro-1-{1-[3-(2,3-dihydro-2-thioxo-1H-benzimidazol-1-yl)propyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 266.6° C.

reactant | carbon disulfide | C(=S)=S | CS2
reactant | 1-[1-{3-[N-(2-aminophenyl)amino]propyl}-4-piperidinyl]-5-chloro-1,3-dihydro-2H-benzimidazol-2-one | NC1=C(C=CC=C1)NCCCN1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O | C21H26ClN5O
solvent | ethanol | C(C)O | C2H6O
product | 5-chloro-1-{1-[3-(2,3-dihydro-2-thioxo-1H-benzimidazol-1-yl)propyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one | 45.5% | ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCCN2C(NC3=C2C=CC=C3)=S)C=C1 | C22H24ClN5OS
